** sch_path: /foss/designs/CHIP-PLL/divider/tb/d_flip_flop_tb.sch
**.subckt d_flip_flop_tb
V1 VP 0 1.2
V2 clk_in 0 PULSE(1.2 0 0 10p 10p 5n 10n)
C1 d0 0 1f
V3 d 0 PWL( 0 0 142.5n 0 142.51n 1.2 162.5n 1.2 162.51n 0 172.5n 0 172.51n 1.2 182.5n 1.2 182.51n 0 212.5n 0 212.51n 1.2 222.5n
+ 1.2 222.51n 0 232.5n 0 232.51n 1.2 242.5n 1.2 242.51n 0 262.5n 0 262.51n 1.2 272.5n 1.2 272.51n 0)
C2 d1 0 1f
x2 d0 VP 0 net5 clk_buf d d_flip_flop
C5 d4 0 1f
C6 d5 0 1f
C7 d6 0 1f
C8 d7 0 1f
C9 d2 0 1f
C10 d3 0 1f
V4 data_en 0 PWL( 0 1.2 272.6n 1.2 272.61n 0)
x11 _clk_un clk_buf VP 0 inverter_x2
x1 VP 0 data_en _clk_un clk_in NAND_2in
x3 d4 VP 0 net6 clk_buf d3 d_flip_flop
x4 d1 VP 0 net7 clk_buf d0 d_flip_flop
x5 d5 VP 0 net8 clk_buf d4 d_flip_flop
x6 d2 VP 0 net9 clk_buf d1 d_flip_flop
x7 d6 VP 0 net10 clk_buf d5 d_flip_flop
x8 d3 VP net1 net11 clk_buf d2 d_flip_flop
x9 d7 VP net2 net12 clk_buf d6 d_flip_flop
C3 d8 0 1f
C4 d9 0 1f
C11 d10 0 1f
C12 d11 0 1f
x10 d8 VP 0 net13 clk_buf d7 d_flip_flop
x12 d9 VP 0 net14 clk_buf d8 d_flip_flop
x13 d10 VP 0 net15 clk_buf d9 d_flip_flop
x14 d11 VP net3 net16 clk_buf d10 d_flip_flop
C13 d12 0 1f
x15 d12 VP net4 net17 clk_buf d11 d_flip_flop
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt



.param temp=27
.control

op
print all
save all

tran 50p 300n
write input_register_tb.raw
set appendwrite

meas tran v_d0 AVG v(d0) FROM=170n TO=180n


print d0_logic

.endc


**** end user architecture code
**.ends

* expanding   symbol:  schematics/d_flip_flop.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/d_flip_flop.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/d_flip_flop.sch
.subckt d_flip_flop q VP GND q_ clk d
*.iopin GND
*.ipin clk
*.iopin VP
*.ipin d
*.opin q
*.opin q_
x1 VP GND net1 net3 clk net4 NAND_3in
x2 VP GND net2 net1 clk NAND_2in
x3 VP GND net4 net2 net1 NAND_2in
x4 VP GND net3 net4 d NAND_2in
x5 VP GND q q_ net3 NAND_2in
x6 VP GND net1 q q_ NAND_2in
.ends


* expanding   symbol:  schematics/inverter_x2.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/inverter_x2.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/inverter_x2.sch
.subckt inverter_x2 IN OUT VP GND
*.ipin IN
*.iopin VP
*.opin OUT
*.iopin GND
XM1 OUT IN GND GND sg13_lv_nmos w=0.30u l=0.13u ng=1
XM2 OUT IN VP VP sg13_lv_pmos w=0.30u l=0.13u ng=1
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/NAND_2in.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_2in.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_2in.sch
.subckt NAND_2in VP GND a y b
*.opin y
*.iopin GND
*.ipin a
*.iopin VP
*.ipin b
XM1 y a net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM3 net1 b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM2 y b VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
XM4 y a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  schematics/NAND_3in.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_3in.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_3in.sch
.subckt NAND_3in VP GND a y b c
*.opin y
*.iopin GND
*.ipin a
*.iopin VP
*.ipin b
*.ipin c
XM1 y a net2 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM3 net2 b net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM4 net1 c GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM7 y c VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
XM2 y a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
XM5 y b VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends

.end
